US07452911B2
3.60a ethyl 4-bromo-5-oxo-azepan-1-carboxylate
79.9 g (500 mmol) bromine are added to a solution of 92.7 g (500 mmol) ethyl 4-oxo-azepan-1-carboxylate in 350 mL chloroform and the reaction is stirred overnight. The reaction solution is washed three times with saturated NaHCO3 solution, the organic phase is dried over Na2SO4 and the solvent is eliminated i.vac. The product is further reacted without purification.

reactant | bromine | 500 mmol, 79.9 g | BrBr | Br2
reactant | ethyl 4-oxo-azepan-1-carboxylate | 500 mmol, 92.7 g | O=C1CCN(CCC1)C(=O)OCC | C9H15NO3
solvent | chloroform | 350 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-bromo-5-oxo-azepan-1-carboxylate | BrC1CCN(CCC1=O)C(=O)OCC | C9H14BrNO3
